*ADA4945 Macro-model
*Function:Fully Differential Amplifier

*Revision History:
*Rev.1.0 Feb 2019-ZF
*Rev.1.1 Dec 2019-AR modify Output Clamp-2 blocks VoutP1 dc value
*Copyright 2019 by Analog Devices

*Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
*for License Statement. Use of this model indicates your acceptance
*of the terms and provisions in the License Staement.

*Tested on LTSPice, MultSIm, SiMetrix(NGSpice), PSpice

*Not modeled: Distortion, PSRR, Overload Recovery,
*             Shutdown Turn On/Turn Off time

*Parameters modeled include:
*   Vos, Ibias, Input CM limits and Typ output voltge swing over full supply range,
*   Vos, Ibias, Ios drift with temperature,
*   Open Loop Gain & Phase, Slew Rate, Output current limits, Voltage & Current Noise over temp,
*   Capacitive load drive, Quiescent and dynamic supply currents,
*   Shut Down pin functionality where applicable,
*   Single supply & offset supply functionality.

*---------------------------------------------------------------------------------------
*Model Structure:
*   This model is built using nested subcircuits.
*   There are two ".Ends Main" statements included in the model fie, both commented out.
*   First occurence is at the end of the main subcircuit description.
*   Second occurence is at the end of the model file.
*   Uncomment one of the two statements to suit your system.
*---------------------------------------------------------------------------------------
.Subckt ADA4945 FBN VinP VinN FBP VCC VEE VoN VoP PD Vocm Clamp-H Clamp-L Mode DGND

***ADA4945 Top Level Connections***
R1	FBN	VoN	Rideal	1
R2	FBP	VoP	Rideal	1
R3	VoN	N3	Rideal	50e3
R4	VoP	N3	Rideal	50e3
R5	Clamp-H	Vocm	Rideal	250e3
R6	Clamp-L	Vocm	Rideal	250e3


*** Vos temp dependence ***
Iv1 NV1 110 dc 4.5e-7
Rv1 NV1 110 Res1 1
gv1 NV3 110 110 NV1 1
Rv2 NV3 110 Res2 1
ev1 N1 NV4 NV3 110 1
vv1 NV4 VinP dc 7.45e-6

*** Ios temp dependence ***
Ios1 Nos2 110 dc 1.5e-6
Ros1 110 Nos2 Res3 1e-8
gos1 Nos3 110 110 Nos2 1e8
Ros2 Nos3 110 Res4 1e-6

*gos2 VinN 110 Nos3 0 1
gos3 VinN 110 VALUE={-1e-8*LIMIT(V(MODE,REF1),1,2)}

***Ibias Temp Dependence ***
IbP1 NbP 110 dc 2.5
RbP1 NbP 110 Res5 1e-6
gbP1 VinP 110 NbP 110 1
gbP2 VinP 110 value={limit(V(REF1,Mode),1.7e-6,0)}


IbN1 NbN 110 dc 2.5
RbN1 NbN 110 Res6 0.5985e-6
gbN1 VinN 110 NbN 110 1
gbN2 VinN 110 value={limit(1e0*V(REF1,Mode),1.7e-6,0)}



*** Input Clamp ***
EVCM N2B 0 VALUE={LIMIT(v(N2A,0),v(vCC)-1.3,v(vee))}
RVCM N2B N2 Rideal 1K



*** Input Resistance, capacitance ***
RinCMP	110	N1	Rideal	1e7
RinCMN	VinN	110	Rideal	1e7
CinCMP	110	N1	7.5e-13
CinCMN	VinN	110	7.5e-13

RinDiff	VinN	N1	Rideal	5e4
CinDiff	VinN	N1	1.5e-13

*** High Power to Low Power switches ***
S1HP	1HP	N2	MODE	REF1	SW-SEL
S1LP	N2	1LP	REF1	MODE	SW-SEL
S1HN	1HN	N1	MODE	REF1	SW-SEL
S1LN	N1	1LN	REF1	MODE	SW-SEL
SVoNH	VoNH	VoN	MODE	REF1	SW-SEL
SVoNL	VoN	VoNL	REF1	MODE	SW-SEL
S3HP	3HP	Vocm	MODE	REF1	SW-SEL
S3LP	Vocm	3LP	REF1	MODE	SW-SEL
S3HN	3HN	N3	MODE	REF1	SW-SEL
S3LN	N3	3LN	REF1	MODE	SW-SEL
SVcmH	VcmH	N2A	MODE	REF1	SW-SEL
SVcmL	N2A	VcmL	REF1	MODE	SW-SEL
S2HP	2HP	N2	MODE	REF1	SW-SEL
S2LP	N2	2LP	REF1	MODE	SW-SEL
S2HN	2HN	VInN	MODE	REF1	SW-SEL
S2LN	VInN	2LN	REF1	MODE	SW-SEL
SVoPH	VoPH	VoP	MODE	REF1	SW-SEL
SVoPL	VoP	VoPL	REF1	MODE	SW-SEL

*** Quiescent currents & VRef for digital threshold ***
Vref1	REF1	DGND	DC	1.2
Istby	VCC	VEE	DC	0.45e-3
SSTBY	VCC	N4	PD	REF1	SW-SEL
RPD	VCC	PD	Rideal	100e6
DIFP	N5	N4	diode
IFP	N4	N5	DC	9.05e-3
ILP	N4	N6	DC	1.05e-3
DILP	N6	N4	diode
SFP	N5	VEE	MODE	REF1	SW-SEL
SLP	N6	VEE	REF1	MODE	SW-SEL

*** 2 sets of three amps to make 2 diff-amps ***
X1H	1HP	1HN	VCC	VEE	VoNH	PD Clamp-H Clamp-L DGND 110 111 112 ADA4945-H-Amp
X2H	2HP	2HN	VCC	VEE	VoPH	PD Clamp-H Clamp-L DGND 110 111 112 ADA4945-H-Amp
X3H	3HP	3HN	VCC	VEE	VcmH	PD 		   DGND 110 111 112 ADA4945-H-Vocm
X1L	1LP	1LN	VCC	VEE	VoNL	PD Clamp-H Clamp-L DGND 110 111 112 ADA4945-L-Amp
X2L	2LP	2LN	VCC	VEE	VoPL	PD Clamp-H Clamp-L DGND 110 111 112 ADA4945-L-Amp
X3L	3LP	3LN	VCC	VEE	VcmL	PD                 DGND 110 111 112 ADA4945-L-Vocm

***Power Supplies***
Rz1	VCC	1020	Rideal	1e-6
Rz2	VEE	1030	Rideal	1e-6
e1x	111	110	1020	110	1
e2x	110	112	110	1030	1
e3x	110	0	value={V(1020)/2+V(1030)/2}

***Inoise***
FnIN	N1	110	Vmeas3	0.7071068
Vmeas3	51	110	dc	0
enIN	50	110	Value={limit(V(MODE,REF1)*10,.65,0)}
DnIN	50	51	DINnoisy
FnIN1	110	N1	Vmeas4	0.7071068
Vmeas4	53	110	dc	0
enIN1	52	110	Value={limit(V(MODE,REF1)*10,.65,0)}
DnIN1	52	53	DINnoisy

FnINa	VinN	110	Vmeas3a	0.7071068
Vmeas3a	51a	110	dc	0
enINa	50a	110	Value={limit(V(MODE,REF1)*10,.65,0)}
DnINa	50a	51a	DINnoisy
FnIN1a	110	VinN	Vmeas4a	0.7071068
Vmeas4a	53a	110	dc	0
enIN1a	52a	110	Value={limit(V(MODE,REF1)*10,.65,0)}
DnIN1a	52a	53a	DINnoisy


.model Res1 r(TC1=-0.4, TC2=0.002, TNOM=9)
.model Res2 r(TC1=0.001, TC2=8e-5, TNOM=75)

.model Res3 r(TC1=-1, TC2=0.034, TNOM=100)
.model Res4 r(TC1=0, TC2=1e-3, TNOM=100)

.model Res5 r(TC1=-0.004, TC2=0, TNOM=25)
.model Res6 r(TC1=-0.0067, TC2=1e-7, TNOM=125)

.model	DINnoisy D(IS=3.558e-17 KF=4.054e-16)
.model	Rideal	 res(T_ABS=-273)
.model	SW-SEL	 vswitch(Von=0.1,Voff=0,ron=1e-6,roff=1e9)
.model	SW-NOISE vswitch(Von=0.1,Voff=0,ron=10,roff=1e4)
.model	diode	 d(bv=100)
*.ends	Main


.Subckt ADA4945-H-Amp 100 101 102 103 104 106 ClampH ClampL DGND 110 111 112

***Inputs***
Rs2	2	100	Rideal	1e-6
S3	9	101	106	REF	Switch

***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3

***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy

***CMRR***
Rcmrr 3 5 Rideal 1e-3

***Power Down***
Vref	REF	DGND	dc	1.2

***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1e4

***Dominant Pole at 180 Hz***
g210	210	110	Value={limit(V(200,110)*1.186e-3,3.9,-3.9)}
R210	210	110	Rideal	8.842e4
C210	210	110	1e-8

***Output Voltage Clamp-1***
RX2	60	210	Rideal	.05
DVoutP	60	65	diode
DVoutN	66	60	diode
e60	65	110	ClampH	110	1
e61	66	110	ClampL	110	1

***Pole at 1100MHz***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
C220	220	110	0.1447e-12

***Pole at 1200MHz***
g230	230	110	220	110	0.001
R230	230	110	Rideal	1000
C230	230	110	0.1326e-12

***Buffer***
g240	240	110	230	110	0.001
R240	240	110	Rideal	1000

Rzz 240 270 Rideal 1e-3

***Notch: f=530MHz, Zeta=1.3, Gain=7.9dB***
e271	271	110	270	110	1
R271	271	285	Rideal	10
R272	285	272	Rideal	6.742
L271	272	273	1.934e-9
C271	273	110	46.633e-12

***Buffer***
e286	286	110	285	110	1
R286	286	288	Rideal	1e-6
R287	288	110	Rideal	1e6
e295	295	110	288	110	1

***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	302	303	Rideal	 12
Lout	303	310	3.2e-9
Cout	310	110	7.1e-12


***Output Current Limit***
H1	301	304	Vsense1	100
Vsense1	301	302	dc	0
VIoutP	305	304	dc	15.5
VIoutN	304	306	dc	15.5
DIoutP	307	305	diode
DIoutN	306	307	diode
Rx3	307	300	Rideal	0.001


***Output Clamp-2***
VoutP1	111	73	dc	0.785
VoutN1	74	112	dc	0.785
DVoutP1	75	73	diode
DVoutN1	74	75	diode
RX4	75	310	Rideal	.001


***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e6
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e6
DzOVee	315	110	diode
DOVee	315	103	diode


***Output Switch***
S4	104	313	106	REF	Switch


*** Common Models ***
.model	diode	d(bv=100)
.model	Switch	vswitch(Von=0.1,Voff=0,ron=1e-6,roff=1e9)
.model	DVnoisy	D(IS=5.858e-17 KF=2.262e-17)
.model	DINnoisy	D(IS=3.73e-17 KF=4.67e-16)
.model	DIPnoisy	D(IS=3.73e-17 KF=4.67e-16)
.model	Rideal	res(T_ABS=-273)

.ends	Amp-H


.Subckt ADA4945-H-Vocm 100 101 102 103 104 106 DGND 110 111 112

*** Feedback ***
Rfb 101 104 500K

***Inputs***
S2	1	100	106	REF	Switch
Rs3	9	101	Rideal	1e-6
VOS	2	1	dc	10e-3

***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3

***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy


***CMRR***
Rcmrr 3 5 Rideal 1e-3


***Power Down***

VREF	REF	DGND	dc	1.2

***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1


***Dominant Pole at 8 Hz***
g210	210	110	Value={limit(V(200,110)*5.27e-5,1.3e-5,-1.3e-5)}
R210	210	110	Rideal	1.989e10
C210	210	110	1e-12


***Pole at 64MHz***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
C220	220	110	2.4868e-12

Rq	220	295	1

***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	301	310	Rideal	1

***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e6
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e6
DzOVee	315	110	diode
DOVee	315	103	diode

***Output Switch***
Rs4	104	313	Rideal	1e-6

*** Common Models ***
.model	diode	d(BV=100)
.model	Switch	vswitch(Von=0.1,Voff=0.0,ron=1e-6,roff=1e9)
.model	DzVoutP	D(BV=4.3)
.model	DzVoutN	D(BV=4.3)
.model	DVnoisy	D(IS=3.37e-14 KF=5.04e-16)
.model	DINnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	DIPnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	Rideal	res(T_ABS=-273)

.ends	Vocm-H

.Subckt ADA4945-L-Amp 100 101 102 103 104 106 ClampH ClampL DGND 110 111 112

***Inputs***
Rs2	2	100	Rideal	1e-6
S3	9	101	106	REF	Switch

***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3

***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy

***Inoise***
FnIN	9	110	Vmeas3	0.7071068
Vmeas3	51	110	dc	0
VnIN	50	110	dc	0.65
DnIN	50	51	DINnoisy
FnIN1	110	9	Vmeas4	0.7071068
Vmeas4	53	110	dc	0
VnIN1	52	110	dc	0.65
DnIN1	52	53	DINnoisy



***CMRR***
Rcmrr 3 5 Rideal 1e-3

***Power Down***
Vref	REF	DGND	dc	1.2

***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1e5

***Dominant Pole at 95 Hz***
g210	210	110	Value={limit(V(200,110)*6.283e-4,10,-10)}
R210	210	110	Rideal	1.675e4
C210	210	110	1e-7

***Output Voltage Clamp-1***
RX2	60	210	Rideal	.05
DVoutP	60	65	diode
DVoutN	66	60	diode
e60	65	110	ClampH	110	1
e61	66	110	ClampL	110	1

***Pole at 210MHz***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
C220	220	110	0.7579e-12

***Pole at 350MHz***
g230	230	110	220	110	0.001
R230	230	110	Rideal	1000
C230	230	110	0.4547e-12

***Buffer***
g240	240	110	230	110	0.001
R240	240	110	Rideal	1000

Rzz 240 295 Rideal 1e-3


***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	302	303	Rideal	 12
Lout	303	310	3.2e-9
Cout	310	110	7.1e-12


***Output Current Limit***
H1	301	304	Vsense1	100
Vsense1	301	302	dc	0
VIoutP	305	304	dc	13.336
VIoutN	304	306	dc	13.336
DIoutP	307	305	diode
DIoutN	306	307	diode
Rx3	307	300	Rideal	0.001


***Output Clamp-2***
VoutP1	111	73	dc	0.785
VoutN1	74	112	dc	0.785
DVoutP1	75	73	diode
DVoutN1	74	75	diode
RX4	75	310	Rideal	.001


***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e6
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e6
DzOVee	315	110	diode
DOVee	315	103	diode


***Output Switch***
S4	104	313	106	REF	Switch


*** Common Models ***
.model	diode	d(bv=500)
.model	Switch	vswitch(Von=0.1,Voff=0.0,ron=1e-6,roff=1e9)
.model	DVnoisy	D(IS=1.6798e-16 KF=1.45e-17)
.model	DINnoisy	D(IS=1.2854e-17 KF=1.481e-16)
.model	DIPnoisy	D(IS=9.44e-18 KF=1e-19)
.model	Rideal	res(T_ABS=-273)

.ends	Amp-L


.Subckt ADA4945-L-Vocm 100 101 102 103 104 106 DGND 110 111 112

*** Feedback ***
Rfb 101 104 500K

***Inputs***
S2	1	100	106	REF	Switch
Rs3	9	101	Rideal	1e-6
VOS	2	1	dc	10e-3


***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3

***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy




***CMRR***
Rcmrr 3 5 Rideal 1e-3


***Power Down***
VREF	REF	DGND	dc	1.2

***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1

***Dominant Pole at 4 Hz***
g210	210	110	Value={limit(V(200,110)*2.513e-5,4.5e-6,-4.5e-6)}
R210	210	110	Rideal	3.979e10
C210	210	110	1e-12

***Pole at 50MHz***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
C220	220	110	3.1831e-12


Rq	220	295	1

***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	301	310	Rideal	1


***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e6
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e6
DzOVee	315	110	diode
DOVee	315	103	diode


***Output Switch***
Rs4	104	313	Rideal	1e-6


*** Common Models ***
.model	diode	d(bv=500)
.model	Switch	vswitch(Von=0.1,Voff=0.0,ron=1e-6,roff=1e9)
.model	DzVoutP	D(BV=4.3)
.model	DzVoutN	D(BV=4.3)
.model	DVnoisy	D(IS=4.91e-14 KF=1.97e-16)
.model	DINnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	DIPnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	Rideal	res(T_ABS=-273)

.ends	Vocm-L
.ends	Main
